US08912180B2
N-(2-Methyl-6-nitrophenyl)-2-(methylsulfanyl)-6-(morpholin-4-yl)pyrimidin-4-amine (750 mg) was dissolved in ethanol (22.5 mL), and iron chloride (III) hexahydrate (56 mg) and activated carbon (75 mg) were added thereto, followed by stirring at 80° C. Hydrazine monohydrate (0.3 mL) was added dropwise thereto, followed by heating and refluxing overnight. The reaction mixture was cooled to room temperature and filtered through celite. The mother liquid was concentrated and the residue was purified using silica gel column chromatography (hexane:ethyl acetate) to obtain 3-methyl-N2-[2-(methylsulfanyl)-6-(morpholin-4-yl)pyrimidin-4-yl]benzene-1,2-diamine (544 mg) as a pale yellow powder.

reactant | N-(2-Methyl-6-nitrophenyl)-2-(methylsulfanyl)-6-(morpholin-4-yl)pyrimidin-4-amine | 750 mg | CC1=C(C(=CC=C1)[N+](=O)[O-])NC1=NC(=NC(=C1)N1CCOCC1)SC | C16H19N5O3S
reactant | Hydrazine monohydrate | 0.3 mL | O.NN
solvent | ethanol | 22.5 mL | C(C)O | C2H6O
catalyst | iron chloride | 56 mg | [Fe](Cl)Cl
product | 3-methyl-N2-[2-(methylsulfanyl)-6-(morpholin-4-yl)pyrimidin-4-yl]benzene-1,2-diamine | 544 mg | CC1=C(C(=CC=C1)N)NC1=NC(=NC(=C1)N1CCOCC1)SC | C16H21N5OS
